US05395747
Guanidinium 4-methylphenylsulfonylacetate was prepared as follows: To a mixture of 4.441 g (0.0207 mol) of 4-methylphenylsulfonylacetic acid in 25 mL of ethanol was added 1.867 g (0.0104 mol) of guanidine carbonate and the mixture stirred at room temperature for 18 hr. The resultant product was then filtered off and air dried to afford 5.150 g; mp 152°-153° C. (dec). NMR was in agreement with the proposed structure. The 4-methylphenylsulfonylacetic acid was obtained from Lancaster Synthesis Inc. Windham, N. H.

reactant | 4-methylphenylsulfonylacetic acid | 0.0207 mol, 4.441 g | CC1=CC=C(C=C1)S(=O)(=O)CC(=O)O | C9H10O4S
reactant | guanidine carbonate | 0.0104 mol, 1.867 g | C(O)(O)=O.NC(=N)N
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | Guanidinium 4-methylphenylsulfonylacetate | NC(=[NH2+])N.CC1=CC=C(C=C1)S(=O)(=O)CC(=O)[O-] | InChI=1S/C9H10O4S.CH5N3/c1-7-2-4-8(5-3-7)14(12,13)6-9(10)11;2-1(3)4/h2-5H,6H2,1H3,(H,10,11);(H5,2,3,4)
